US04398026
To a solution of 3.6 g (50 mmoles) of pyrrolidine in 50 mg of anhydrous benzene was added dropwise a solution of 4.2 g (50 mmoles) of diketene in 50 ml of anhydrous benzene at 0°-5° C. over 2 hours. The mixture was allowed to stand at room temperature for 2 hours, and the solvent was distilled off to a half its volume under reduced pressure. To the residue was added 5 g (34 mmoles) of D-penicillamine. The mixture was heated at 80° C. with stirring under a stream of argon for an hour to obtain a pale yellow and clear reaction mixture. The reaction mixture was filtered, the solvent was distilled off and the resulting residue was washed with a mixture of n-hexane and ether. The viscous residue thus obtained was crystallized from hot benzene and further recrystallized from benzene to give 9.5 g of 4-carboxy-2,5,5-trimethylthiazolidine-2-acetopyrrolidide as colorless prisms.

reactant | pyrrolidine | 50 mmoles, 3.6 g | N1CCCC1 | C4H9N
reactant | diketene | 50 mmoles, 4.2 g | C=C1CC(=O)O1 | C4H4O2
reactant | D-penicillamine | 34 mmoles, 5 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | benzene | 50 mg | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-carboxy-2,5,5-trimethylthiazolidine-2-acetopyrrolidide | 9.5 g, Yield: 90% | CC1(C(NC(S1)(C)CC(=O)N2CCCC2)C(=O)O)C | C13H22N2O3S
